US07897627B2
[(R)-3-(6-Chloro-benzooxazol-2-ylamino)-pyrrolidin-1-yl]-o-tolyl-methanone
A mixture of 32.9 mg (0.12 mmol) (6-Chloro-benzooxazol-2-yl)-pyrrolidin-3-yl-amine; hydrochloride, 19.6 mg (0.144 mmol) 2-methyl-benzoic acid, 53.9 mg (0.168 mmol) TBTU and 77.5 mg (0.6 mmol) DIPEA in 2 mL DMF was stirred at room temperature for 16 h. The mixture was concentrated, taken up in methanol and formic acid and subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The product containing fractions were evaporated to yield 26.2 mg (61%) of the title compound. (MH+) 356.1.

reactant | (6-Chloro-benzooxazol-2-yl)-pyrrolidin-3-yl-amine | 0.12 mmol, 32.9 mg | ClC1=CC2=C(N=C(O2)NC2CNCC2)C=C1 | C11H12ClN3O
reactant | hydrochloride | Cl | ClH
reactant | 2-methyl-benzoic acid | 0.144 mmol, 19.6 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | TBTU | 0.168 mmol, 53.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.6 mmol, 77.5 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [(R)-3-(6-Chloro-benzooxazol-2-ylamino)-pyrrolidin-1-yl]-o-tolyl-methanone | 26.2 mg, 61% | ClC1=CC2=C(N=C(O2)N[C@H]2CN(CC2)C(=O)C2=C(C=CC=C2)C)C=C1 | C19H18ClN3O2
